US06235731B1
2) Synthesis of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 303.2 mg (0.64 mmol.) of N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added, at room temperature, 0.5 ml (6.0 mmol.) of 12N hydrochloric acid. The mixture was stirred for one hour. The mixture was concentrated under reduced pressure. To the concentrate were added ethanol and diethyl ether. The resulting crystals were collected by filtration and washed with ethanol and diethyl ether to afford the object compound as orange crystals. The yield was 257.5 mg (73%).

reactant | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.64 mmol, 303.2 mg | C1(=CC=CC=C1)CCCC(NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)C(=O)NC3CCNCC3 | C26H29N5O2S
reactant | hydrochloric acid | 6.0 mmol, 12N, 0.5 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[1-(3-phenylpropan-1-yl)piperidin-4-ylaminocarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)CCCC(NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)C(=O)NC3CCNCC3 | InChI=1S/C26H29N5O2S.2ClH/c32-25(29-19-12-14-27-15-13-19)21(9-4-8-18-6-2-1-3-7-18)30-26(33)22-16-20-17-28-23-10-5-11-24(34-22)31(20)23;;/h1-3,5-7,10-11,16-17,19,21,27H,4,8-9,12-15H2,(H,29,32)(H,30,33);2*1H
